US04588726
A mixture of 94 g of ethyl 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate, 600 ml of glacial acetic acid, 450 ml of water and 70 ml of concentrated sulphuric acid is heated to reflux for 1.5 hours. The hot suspension is then poured onto ice, and the precipitate is filtered off with suction, thoroughly washed with water, and dried in vacuo at 100° C. In this manner, 88.9 g of pure 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid of melting point 228°-230° C. (decomposition) are obtained.

reactant | ethyl 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 94 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)OCC | C15H12F3NO3
reactant | acetic acid | 600 ml | C(C)(=O)O | C2H4O2
reactant | sulphuric acid | 70 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 450 ml | O | H2O
product | 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 88.9 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C13H8F3NO3
